* source EXP1
R_R1         N00103 N00133  1k  
R_R2         N00133 N00160  2k  
R_R3         N00160 0  3k  
V_V3         N00103 0  
+SIN 0 10 1000 0 0 0
