* source EXP1RES
R_R4         N00965 0  1k  
V_V10         N00965 0  
+SIN 0 10 1000 0 0 0
R_R5         N00965 0  2k  
R_R6         N00965 0  3k  
