* source FFFFFFFFFFF
V_V1         N03281 0 0Vdc
V_V2         N03190 0 0Vdc
Q_Q1         VCE VBE 0 Q2N2222
R_R1         VCE N03281  1k  
R_R2         N03190 VBE  100k  
