* source FULLWAVE
R_R1         0 N00191  1k  
R_R2         N00329 0  1k  
D_D1         N00252 N00191 Dbreak 
D_D2         N00225 N00191 Dbreak 
D_D3         N00329 N00252 Dbreak 
D_D4         N00329 N00225 Dbreak 
V_V1         N00252 N00225  
+SIN 0 10 50 0 0 0
